US06537948B1
To a mixture of 42 mg of Sodium hydride and N,N-dimethylformamide, 0.184 g of 5-hydroxy-4-(methoxycarbonyl)methoxypyrimidine was added and stirred at room temperature for 1 hour. Then 0.35 g of 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene was added to the mixture, and stirred for 2 hours at room temperature, then for 1 hour at 50° C. The mixture was poured into saturated ammonium chloride solution, and extracted with ethyl acetate. The organic layer was washed with saturated ammonium chloride solution and saturated saline, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.448 g of 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-(methoxycarbonyl)methoxypyrimidine.

reactant | Sodium hydride | 42 mg | [H-].[Na+]
reactant | 5-hydroxy-4-(methoxycarbonyl)methoxypyrimidine | 0.184 g | OC=1C(=NC=NC1)OCC(=O)OC | C7H8N2O4
reactant | 2,5-difluoro-4-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]nitrobenzene | 0.35 g | FC1=C(C=C(C(=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)F)[N+](=O)[O-] | C12H6F5N3O4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 5-{4-fluoro-5-[3-methyl-2,6-dioxo-4-(trifluoromethyl)-1,2,3,6-tetrahydropyrimidin-1-yl]-2-nitrophenoxy}-4-(methoxycarbonyl)methoxypyrimidine | 0.448 g | FC1=CC(=C(OC=2C(=NC=NC2)OCC(=O)OC)C=C1N1C(N(C(=CC1=O)C(F)(F)F)C)=O)[N+](=O)[O-] | C19H13F4N5O8
